US08211908B2
To 2.2 g of 1-(1,3-dioxolan-2-ylmethyl)-7-fluoro-1,5-naphthyridin-2(1H)-one, 20 mL of an 80% aqueous trifluoroacetic acid solution was added, and the mixture was stirred at 80 to 90° C. for 3 hours. Thereto was added 10 mL of an 80% aqueous trifluoroacetic acid solution, and the mixture was stirred at 80 to 90° C. for 2 hours, then, 10 mL of an 80% aqueous trifluoroacetic acid solution was further added, and the mixture was stirred at the same temperature for 9 hours. The reaction mixture was cooled to room temperature, and the solvent was then distilled off under reduced pressure. To the resultant residue, a 2 mol/L aqueous sodium hydroxide solution was added and adjusted to pH 8.0, and chloroform and methanol were added thereto. The organic layer was separated, and the aqueous layer was extracted with a mixed solution of chloroform and methanol twice. The organic layer and the extract were combined, the resultant solution was dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. Diethyl ether and hexane were added to the resultant residue, and the solid was filtered off to obtain 1.5 g of 7-fluoro-1-(2-hydroxy-2-methoxyethyl)-1,5-naphthyridin-2(1H)-one as a light brown solid.

reactant | 1-(1,3-dioxolan-2-ylmethyl)-7-fluoro-1,5-naphthyridin-2(1H)-one | 2.2 g | O1C(OCC1)CN1C(C=CC2=NC=C(C=C12)F)=O | C12H11FN2O3
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | 7-fluoro-1-(2-hydroxy-2-methoxyethyl)-1,5-naphthyridin-2(1H)-one | 1.5 g | FC1=CN=C2C=CC(N(C2=C1)CC(OC)O)=O | C11H11FN2O3
